US04933333
1.9 g of 1-(di-p-anisylmethyl)-3-(1-p-nitrobenzyloxycarbonyloxyethyl)-4-[3-(p-nitrobenzyloxycarbonyl)-2-oxopropyl]-2-azetidinone and 660 mg of p-carboxybenzenesulfonyl azide were dissolved in 50 ml of dried acetonitrile, and 1.4 ml of triethylamine was added thereto dropwise in a nitrogen stream under ice-cooling. After stirring at that temperature for 15 minutes, the reaction mixture was diluted with ethyl acetate, and the thus formed precipitate was filtered. The filtrate was concentrated under reduced pressure, and the resulting oily residue was subjected to silica gel chromatography to obtain 1-(di-p-anisylmethyl)-3-(1-p-nitrobenzyloxycarbonyloxyethyl)-4-[3-(p-nitrobenzyloxycarbonyl)-2-oxo-3-diazopropyl]-2-azetidinone.

reactant | 1-(di-p-anisylmethyl)-3-(1-p-nitrobenzyloxycarbonyloxyethyl)-4-[3-(p-nitrobenzyloxycarbonyl)-2-oxopropyl]-2-azetidinone | 1.9 g | C(C1=CC=C(C=C1)OC)C(N1C(C(C1CC(CC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)C(C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)CC1=CC=C(C=C1)OC | C41H41N3O13
reactant | p-carboxybenzenesulfonyl azide | 660 mg | C(=O)(O)C1=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-] | C7H5N3O4S
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(di-p-anisylmethyl)-3-(1-p-nitrobenzyloxycarbonyloxyethyl)-4-[3-(p-nitrobenzyloxycarbonyl)-2-oxo-3-diazopropyl]-2-azetidinone | C(C1=CC=C(C=C1)OC)C(N1C(C(C1CC(C(=[N+]=[N-])C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)C(C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)CC1=CC=C(C=C1)OC | C41H39N5O13
